US06468998B1
(S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide and (1,2,3,4-tetrahydronaphthalen-2-yl)methyl p-toluenesulfonate were reacted under the same conditions as in Example 6 to give (S)-N-(1-((1,2,3,4-tetrahydronaphthalen-2-yl)methyl)pyrrolidin-3-yl)-1-adamantanecarboxamide.

reactant | (S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide | N1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C15H24N2O
reactant | (1,2,3,4-tetrahydronaphthalen-2-yl)methyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1CC2=CC=CC=C2CC1)C | C18H20O3S
product | (S)-N-(1-((1,2,3,4-tetrahydronaphthalen-2-yl)methyl)pyrrolidin-3-yl)-1-adamantanecarboxamide | C1C(CCC2=CC=CC=C12)CN1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C26H36N2O
